US06852862B2
30 g of 2-amino-4′-fluorobenzophenone methanesulfonate was added to 150 g of o-dichlorobenzene, the resulting mixture was heated at 80° C. Then, the reaction solution was made alkaline with 25% aqueous solution of sodium hydroxide. The reaction solution was separated into phases at the same temperature and washed with 5% brine solution. The organic phase was dried over anhydrous magnesium sulfate, and filtered at 80° C. The filtrate was gradually cooled, stirred at 0 to 5° C. for 4 hours, filtered and washed with a small amount of toluene. After drying, 19 g of 2-amino-4′-fluorobenzophenone was obtained.

reactant | 2-amino-4′-fluorobenzophenone methanesulfonate | 30 g | CS(=O)(=O)O.NC1=C(C(=O)C2=CC=C(C=C2)F)C=CC=C1
reactant | sodium hydroxide | [OH-].[Na+]
solvent | o-dichlorobenzene | 150 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-amino-4′-fluorobenzophenone | 19 g, Yield: 92% | NC1=C(C(=O)C2=CC=C(C=C2)F)C=CC=C1 | C13H10FNO
